US04446028
Preparation of Isopropenyl Phosphonic Acid/Hydroxypropylacrylate Copolymer (1:1 molar ratio)
To a 500 ml resin kettle equipped with a mechanical stirrer, thermometer, pressure compensated addition funnel, and reflux condenser, was added hydroxypropylacrylate (26.6 g; 0.2 mole). Isopropenyl phosphonic acid (25.4 g; 0.2 mole) was dissolved in 154.2 g water and added rapidly to the kettle. The reaction mixture was then sparged with nitrogen for 1/2 hour. Ammonium persulfate (6 g) was added and the nitrogen sparge continued for an additional 1/2 hour. The mixture was heated to reflux for 2 hours. An additional 6 g of ammonium persulfate was added. The mixture was then refluxed for an additional 2 hours. There was a definite increase in viscosity after the second addition of ammonium persulfate. The yellow product had a pH of 1.00 and was tested without further purification. A 31PMR spectrum showed broad polymer absorptions centered at δ=-32.9 and -34.7 ppm and a small amount of monomer at δ=-19.0 ppm. There was also a trace of inorganic phosphate.

reactant | hydroxypropylacrylate | 0.2 mole, 26.6 g | OCCCOC(C=C)=O | C6H10O3
reactant | Isopropenyl phosphonic acid | 0.2 mole, 25.4 g | C(=C)(C)P(O)(O)=O | C3H7O3P
solvent | water | 154.2 g | O | H2O
product | Isopropenyl Phosphonic Acid Hydroxypropylacrylate | C(=C)(C)P(O)(O)=O.OCCCOC(C=C)=O | InChI=1S/C6H10O3.C3H7O3P/c1-2-6(8)9-5-3-4-7;1-3(2)7(4,5)6/h2,7H,1,3-5H2;1H2,2H3,(H2,4,5,6)
